US09284314B2
3-picoline (45 ml, 464, 4 eq) was added to a slurry of benzyl (2S,5R)-5-[(benzyloxy)amino]piperidine-2-carboxylate ethanedioate (50 g, 116 mmol, 1 eq) in dichloromethane (1000 ml) at 0° C., followed by a solution of triphosgene (31.0 g, 104.4 mmol, 0.9 eq) in dichloromethane (200 ml). The mixture was stirred at 0° C. until the reaction was deemed to be complete. The reaction was quenched with a solution of sodium bicarbonate (24.4 g, 290 mmol, 2.5 eq) in water (300 ml), and the layers were separated. The aqueous layer was extracted with dichloromethane (100 ml) and the combined organic layers were washed with water. The organic layer was concentrated in vacuo to give (2S,5R)-6-benzyloxy-7-oxo-1,6-diaza-bicyclo[3.2.1]octane-2-carboxylic acid benzyl ester as a solution in dichloromethane.

reactant | 3-picoline | 45 ml, 4 eq | N1=CC(=CC=C1)C | C6H7N
reactant | benzyl (2S,5R)-5-[(benzyloxy)amino]piperidine-2-carboxylate ethanedioate | 116 mmol, 50 g, 1 eq | C(C(=O)O)(=O)O.C(C1=CC=CC=C1)ON[C@@H]1CC[C@H](NC1)C(=O)OCC1=CC=CC=C1
reactant | triphosgene | 104.4 mmol, 31.0 g, 0.9 eq | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | sodium bicarbonate | 290 mmol, 24.4 g, 2.5 eq | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 1000 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | water | 300 ml | O | H2O
product | (2S,5R)-6-benzyloxy-7-oxo-1,6-diaza-bicyclo[3.2.1]octane-2-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)[C@H]1N2C(N([C@H](CC1)C2)OCC2=CC=CC=C2)=O | C21H22N2O4
